US04970213
A solution of 115 g of potassium permanganate in 1.215 liters of water is added in the course of 1 hour, while keeping the temperature between 10° and 14° C., to a stirred suspension, cooled to 10° C., of 70.18 g of 2-chloro-6,7-difluoro-3-formyl-1,4-dihy droquinoline in 970 cm3 of N aqueous potassium hydroxide solution. The temperature is allowed to rise to about 20° C. and the mixture is stirred for a further 30 minutes at this temperature. 38.5 g of sodium dithionite are added, the mixture is stirred for 10 minutes at a temperature close to 20° C. and filtered through diatomaceous silica and the filter cake is washed with 3 times 200 cm3 of water. The filtrate and the aqueous washing phases are combined and 140 cm3 of 35% aqueous hydrochloric acid solution are added. The precipitate formed is extracted with 4 times 800 cm3 of ethyl acetate. The combined organic extracts are washed with twice 500 cm3 of water, dried over magnesium sulphate, filtered and concentrated under reduced pressure (20 kPa) at 50° C. The residue is taken up in 400 cm3 of diethyl ether, drained and washed with twice 200 cm3 of the same solvent. 49.2 g of 2-chloro-6,7-difluoroquinoline-3-carboxylic acid are obtained in the form of a beige solid melting at 232° C., which is used for the subsequent steps without further purification.

reactant | potassium permanganate | 115 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-chloro-6,7-difluoro-3-formyl-1,4-dihy droquinoline | 70.18 g | ClC=1NC2=CC(=C(C=C2CC1C=O)F)F | C10H6ClF2NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium dithionite | 38.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 1.215 liters | O | H2O
product | 2-chloro-6,7-difluoroquinoline-3-carboxylic acid | 49.2 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)O)F)F | C10H4ClF2NO2
